US06274536B1
3-Chloro-5-trifluoromethyl-2-pyridinecarboxylic Acid Ethyl Ester
An autoclave is charged with 200 g of 2,3-dichloro-5-trifluoromethylpyridine, 1.85 liters of ethanol, 260 ml of triethylamine and 6.5 g of palladium bis(triphenylphosphine) dichloride (PdCl2(PPh3)2). At 25° C. a pressure of 110 bars is then applied with carbon monoxide and the mixture is maintained at 110° C. for 24 hours. After cooling to 25° C., the crude mixture is concentrated to a thick slurry, which is then partitioned between dilute sodium chloride solution and ethyl acetate. After extraction by shaking, and separation of the phases, the ethyl acetate phase is washed with water, dried over sodium sulfate and concentrated to dryness. The crude product is distilled under a high vacuum of 0.035 mbar. 200 g of the desired product are obtained in the form of a yellow oil having a boiling point of 67-70° C./0.035 mbar (yield 85% of the theoretical yield).

reactant | 2,3-dichloro-5-trifluoromethylpyridine | 200 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | ethanol | 1.85 liters | C(C)O | C2H6O
reactant | carbon monoxide | [C]=O | CO
reactant | triethylamine | 260 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium bis(triphenylphosphine) dichloride | 6.5 g | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
product | 3-Chloro-5-trifluoromethyl-2-pyridinecarboxylic Acid Ethyl Ester | 200 g, yield 85% | C(C)OC(=O)C1=NC=C(C=C1Cl)C(F)(F)F | C9H7ClF3NO2
